US08084448B2
C. 3-{2-[3-Benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-vinyl}-benzamide
A mixture of 3-vinylbenzamide (32 mg, 0.22 mmol), 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (80 mg, 0.18 mmol), Pd(OAc)2 (20 mg, 0.09 mmol) and triethylamine (0.256 mL, 1.84 mmol) in MeCN (2 mL) is heated in a microwave apparatus at 120° C. for 25 min. The mixture is filtered over Celite and washed with MeCN. The filtrate is evaporated to give the title compound which is used directly in the next step.

reactant | 3-vinylbenzamide | 0.22 mmol, 32 mg | C(=C)C=1C=C(C(=O)N)C=CC1 | C9H9NO
reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.18 mmol, 80 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(NS1(=O)=O)=O | C15H13IN2O4S
reactant | triethylamine | 1.84 mmol, 0.256 mL | C(C)N(CC)CC | C6H15N
solvent | MeCN | 2 mL | CC#N | C2H3N
catalyst | Pd(OAc)2 | 0.09 mmol, 20 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-{2-[3-Benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-vinyl}-benzamide | C(C1=CC=CC=C1)OC=1C=C(C=CC1N1S(NC(C1)=O)(=O)=O)C=CC=1C=C(C(=O)N)C=CC1 | C24H21N3O5S
